US08748645B2
Siliconate from methyltrimethoxysilane/KOH (1:0.64)
A 500 ml 5-neck round-bottom flask, inertized with nitrogen and fitted with paddle stirrer, dropping funnel, thermometer, and water separator with reflux condenser, is charged with 50 g (0.367 mol) of methyltrimethoxysilane (available commercially from Wacker Chemie AG) and 65 g of Isopar E (isoparaffinic hydrocarbon mixture with a boiling range of 113-143° C., available commercially from ExxonMobil). The water separator is filled to the brim with Isopar E. Accompanied by stirring at 300 rpm, a solution of 15.4 g (0.23 mol) of potassium hydroxide (85% form, available commercially from AppliChem) in 14.9 g (0.826 mol) of demineralized water is metered in over 12 minutes. The reaction mixture is heated to boiling temperature and the stirrer speed is reduced to 50 rpm as soon as distillation begins. The distillate separates off as the bottom phase in the water separator. Up to a boiling temperature of 85° C., 34.4 g of clear colorless distillate accumulate, containing—according to analysis by gas chromatography—87.8% of methanol, 4.9% of water, and 5.7% of Isopar E. The bottom phase is drained from the water separator, which is filled again completely with Isopar E, and water is removed in circulation up to a boiling temperature of 118° C. This produces 10.8 g of distillate as the bottom phase, containing—according to GC analysis—50.2% of methanol and 49.7% of water. The hydrolysis of the methoxy radicals in the methyltrimethoxysilane is therefore quantitative. During the distillation, a pastelike white solid separates out in the reaction mixture, and breaks down increasingly into fine particles and forms a suspension. The suspension is filtered through a Beco KD3 filter plate in a pressure suction filter, and nitrogen is passed through until the weight is constant. This gives 38 g of fine, white, free-flowable powder with a solids content of 99.7% (determined using the HR73 halogen moisture analyzer from Mettler Toledo at 160° C.). A 50% strength aqueous solution prepared with this solid exhibits no precipitation even after storage at room temperature for two weeks in the absence of air.

reactant | methyltrimethoxysilane | 0.367 mol, 50 g | C[Si](OC)(OC)OC | C4H12O3Si
reactant | potassium hydroxide | 0.23 mol, 15.4 g | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 0.826 mol, 14.9 g | O | H2O
product | methyltrimethoxysilane KOH | C[Si](OC)(OC)OC.[OH-].[K+] | InChI=1S/C4H12O3Si.K.H2O/c1-5-8(4,6-2)7-3;;/h1-4H3;;1H2/q;+1;/p-1
